US05773463
(±)cis-1-(2-Benzylphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane
To a suspension of sodium hydride (80% disp. in oil, 43 mg, 1.4 mmol) in dry N,N-dimethylformamide (2 ml) under nitrogen was added dropwise a solution of (±)cis-1-(2-benzylphenoxy)-2-tert-butoxycarbonylaminoindane (492 mg, 1.2 mmol) in dimethylformamide (5 ml). After stirring the mixture for 45 minutes at room temperature, iodomethane (88 μl, 1.4 mmol) was added dropwise and stirring continued for a further 45 minutes. The reaction mixture was then poured into a large excess of water and extracted with diethyl ether (3×30 ml). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was subjected to column chromatography on silica gel eluting with 10% diethyl ether in hexanes to afford the title compound as a colourless oil (477 mg).

reactant | sodium hydride | 1.4 mmol, 43 mg | [H-].[Na+]
reactant | (±)cis-1-(2-benzylphenoxy)-2-tert-butoxycarbonylaminoindane | 1.2 mmol, 492 mg | C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=CC=C1 | C27H29NO3
reactant | iodomethane | 1.4 mmol, 88 μl | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (±)cis-1-(2-Benzylphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane | 477 mg | C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=CC=C1 | C28H31NO3
